US08703805B2
To a solution of 5-(3-(benzyloxy)phenyl)-1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazole in MeOH (100 mL) was added 10% palladium on carbon (1.04 g). The black suspension was shaken on the Pair hydrogenator at 40-50 psi hydrogen pressure for 5 hours. At this time the reaction was incomplete as evidenced by HPLC analysis. The reaction suspension was treated with additional Pd/C and shaken under 60 psi hydrogen pressure for an additional 16 hours. At this time HPLC showed no remaining starting 5-(3-(benzyloxy)phenyl)-1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazole. The reaction mixture was filtered through a pad of Celite that was then washed thoroughly with MeOH. The filtrate was concentrated under reduced pressure to afford 3-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)phenol as a brittle foam. This material was pure enough for use in subsequent transformations. MS(ES): 339 [M+H]+.

reactant | 5-(3-(benzyloxy)phenyl)-1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazole | C(C1=CC=CC=C1)OC=1C=C(C=CC1)C1=CC(=NN1C1=C(C=CC=C1)Cl)C(F)(F)F | C23H16ClF3N2O
reactant | hydrogen | [H][H] | H2
solvent | MeOH | 100 mL | CO | CH4O
catalyst | palladium on carbon | 1.04 g | [Pd] | Pd
product | 3-(1-(2-chlorophenyl)-3-(trifluoromethyl)-1H-pyrazol-5-yl)phenol | ClC1=C(C=CC=C1)N1N=C(C=C1C=1C=C(C=CC1)O)C(F)(F)F | C16H10ClF3N2O
